US07709481B2
1.25 g 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester was dissolved in 15 ml tetrahydrofuran. 1.38 ml morpholine and 0.5 ml DBU were added and the reaction mixture stirred at 65° C. for three hours. The solvent was removed in vacuo and the resulting crude material was purified by reversed phase HPLC. The lyophilisate was dissolved in ethyl acetate and washed with saturated NaHCO3 and 2N NaOH solution the organic layer was dried over MgSO4. The solvent was removed in vacuo to obtain 580 mg 2-Cyclohex-1-enyl-4-morpholin-4-ylmethyl-oxazole-5-carboxylic acid ethyl ester as an oil.

reactant | 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester | 1.25 g | C(C)OC(=O)C1=C(N=C(O1)C1(CCCCC1)Br)CBr | C13H17Br2NO3
reactant | morpholine | 1.38 ml | N1CCOCC1 | C4H9NO
reactant | DBU | 0.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-Cyclohex-1-enyl-4-morpholin-4-ylmethyl-oxazole-5-carboxylic acid ethyl ester | 580 mg | C(C)OC(=O)C1=C(N=C(O1)C1=CCCCC1)CN1CCOCC1 | C17H24N2O4
